US08106077B2
3-(2-(4-(3-(2,6-Dichloro-phenyl)-5-isopropyl-3-H-(1,2,3)triazol-4ylmethyoxy)-2-methyl-phenyl)-vinyl)-benzoic acid
To a solution of 3-(2-(4-(3-(2,6-dichloro-phenyl)-5-isopropyl-3-H-(1,2,3)triazol-4ylmethyoxy)-2-methyl-phenyl)-vinyl)-benzoic acid methyl ester (0.025 g, 0.046 mmol) in THF (3 mL) is added lithium hydroxide (0.005 g, 0.21 mmol). The reaction mixture is heated to 55° C. The reaction is determined to be incomplete due to the presence of starting material by TLC (1:1 hexane/ethyl acetate). An additional amount of lithium hydroxide (0.050 g) is added and the reaction is heated to 60° C. for 3 h. The reaction is quenched with aqueous 1 N HCl and is extracted with ethyl acetate. The organic layer is washed with brine, dried over sodium sulfate, filtered, and concentrated to give the title compound. ES/MS m/e 521.8 (M+1).

reactant | 3-(2-(4-(3-(2,6-dichloro-phenyl)-5-isopropyl-3-H-(1,2,3)triazol-4ylmethyoxy)-2-methyl-phenyl)-vinyl)-benzoic acid methyl ester | 0.046 mmol, 0.025 g | COC(C1=CC(=CC=C1)C=CC1=C(C=C(C=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C29H27Cl2N3O3
reactant | lithium hydroxide | 0.21 mmol, 0.005 g | [OH-].[Li+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | lithium hydroxide | 0.050 g | [OH-].[Li+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(2-(4-(3-(2,6-Dichloro-phenyl)-5-isopropyl-3-H-(1,2,3)triazol-4ylmethyoxy)-2-methyl-phenyl)-vinyl)-benzoic acid | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1COC1=CC(=C(C=C1)C=CC=1C=C(C(=O)O)C=CC1)C)C(C)C | C28H25Cl2N3O3
